* C:\Users\elima\OneDrive\Documents\GitHub\Simple_Impedance_Analyzer\Impedance_Analyzer_Circ.asc
V1 Sine 0 SINE(0 1 1k) AC 1
R34 Sine N007 33
R33 N007 N008 33
R64 N008 N009 33
RLoad N006 N012 1
V2 V- 0 -5
V3 V+ 0 5
XU2 N011 N012 N006 V- 0 Vout_V V+ N010 LT6370
R2 N010 N011 6k
XU3 N009 N001 V+ V- N004 AD8067
R1 N002 N001 100 tol=1
XU4 N005 V+ V- N003 N002 LT1010
R3 N005 N004 10
R4 V+ N003 25
XU1 0 N012 V+ V- N017 AD8067
R6 N013 N012 100 tol=1
XU5 N018 V+ V- N016 N013 LT1010
R7 N018 N017 10
R8 V+ N016 25
XU6 N015 N012 N013 V- 0 Vout_I V+ N014 LT6370
R5 N014 N015 6k
R9 N006 N002 100
.ac oct 100 100 100k
;tran 10m uic
.lib ADI.lib
.lib LTC.lib
.lib LTC1.lib
.backanno
.end
